US04128648
A. 4-[(4,5-Dihydro-2-thiazolyl)amino]tetrahydro-3,5-bis(phenylmethylene)-2H-pyran-4-ol
A solution of 2-amino-2-thiazoline (2.2 g, 22 mmole) in 100 ml of acetone is added to a suspension of tetrahydro-3,5-bis(phenylmethylene)-4H-pyran-4-one (5.0 g, 18 mmole) in 50 ml of acetone and heated at reflux temperature for 5 hours and then kept at room temperature overnight. Chloroform (75 ml) is added to the stirred mixture and, after 10 minutes, the product is collected and washed with acetone to give 3.1 g of crude product. When the filtrate, concentrated and resuspended in acetone, is stirred with additional 2-amino-2-thiazoline (2.2 g) at room temperature overnight, another 2.5 g is isolated for a combined yield of 5.6 g (82%).

reactant | 2-amino-2-thiazoline | 22 mmole, 2.2 g | NC=1SCCN1 | C3H6N2S
reactant | tetrahydro-3,5-bis(phenylmethylene)-4H-pyran-4-one | 18 mmole, 5.0 g | C1(=CC=CC=C1)C=C1COCC(C1=O)=CC1=CC=CC=C1 | C19H16O2
reactant | Chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-[(4,5-Dihydro-2-thiazolyl)amino]tetrahydro-3,5-bis(phenylmethylene)-2H-pyran-4-ol | 3.1 g | S1C(=NCC1)NC1(C(COCC1=CC1=CC=CC=C1)=CC1=CC=CC=C1)O | C22H22N2O2S
